US07645789B2
To a mixture of (n-C4H9)4NBr (0.50 g, 1.5 mmol), toluene (7 mL) and (3,4-bis-benzyloxy-phenyl)-acetonitrile (14 g, 42 mmol) in NaOH (50 g) and H2O (50 mL) was added BrCH2CH2Cl (30 g, 0.21 mol). The reaction mixture was stirred at 50° C. for 5 h before being cooled to room temperature. Toluene (30 mL) was added and the organic layer was separated and washed with H2O, brine, dried over anhydrous MgSO4, and concentrated. The residue was purified by column on silica gel (petroleum ether/ethyl acetate 10:1) to give 1-(3,4-bis-benzyloxy-phenyl)-cyclopropanecarbonitrile (10 g, 66%). 1H NMR (DMSO 300 MHz) δ 7.46-7.30 (m, 10H), 7.03 (d, J=8.4 Hz, 1H), 6.94 (d, J=2.4 Hz, 1H), 6.89 (dd, J=2.4, 8.4 Hz, 1H), 5.12 (d, J=7.5 Hz, 4H), 1.66-1.62 (m, 2H), 1.42-1.37 (m, 2H).

reactant | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
reactant | (3,4-bis-benzyloxy-phenyl)-acetonitrile | 42 mmol, 14 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CC#N | C22H19NO2
reactant | BrCH2CH2Cl | 0.21 mol, 30 g | BrCCCl | C2H4BrCl
reactant | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (n-C4H9)4NBr | 1.5 mmol, 0.50 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | NaOH | 50 g | [OH-].[Na+]
solvent | H2O | 50 mL | O | H2O
product | 1-(3,4-bis-benzyloxy-phenyl)-cyclopropanecarbonitrile | 10 g, 66% | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C1(CC1)C#N | C24H21NO2
